US09447091B2
N-(2′,4′-difluoro-5-(6-(6-oxo-1,6-dihydropyridin-3-yl)-3H-imidazo[4,5-b]-pyridin-3-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide
A solution of N-(5-(6-(6-(benzyloxy)pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)ethanesulfonamide (0.140 g, 0.234 mmol) in TFA (5 ml) was stirred at RT for 16 h. The mixture was concentrated on vacuo, quenched with sodium bicarbonate and extracted as in Example 1(d). The solvent was distilled off to give the product in 23.7% yield (0.028 g). 1H NMR (400 MHz, DMSO-d6): δ 10.35 (s, 1H), 9.07 (s, 1H), 8.70 (s, 1H), 8.44 (s, 1H), 8.01 (d, 1H), 7.93 (s, 2H), 7.78-7.72 (m, 2H), 7.48-7.45 (d, 2H), 7.30-7.26 (t, 1H), 6.52-6.50 (d, 1H), 3.30-3.28 (q, 2H), 1.28-1.25 (t, 3H); LC-MS (ESI): Calculated mass: 507.51; Observed mass: 508.1 [M+H]+ (rt: 0.1 min).

reactant | N-(5-(6-(6-(benzyloxy)pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 0.234 mmol, 0.140 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NS(=O)(=O)CC | C32H25F2N5O3S
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(2′,4′-difluoro-5-(6-(6-oxo-1,6-dihydropyridin-3-yl)-3H-imidazo[4,5-b]-pyridin-3-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 23.7% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC=2C1=NC=C(C2)C2=CNC(C=C2)=O)NS(=O)(=O)CC | C25H19F2N5O3S
